* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\bjt_modelo.asc
Q1 c b 0 0 2N3904
L1 N002 N006 10e-6
L2 N003 N004 10e-6
C2 N006 N005 1e-6
C3 o N004 10e-6
V1 N001 0 {v}
V2 N003 0 6
V3 N005 0 SINE(0 1e-3 1e6) AC 1E-6
R1 N002 N001 10
C1 N002 0 1e-6
R2 N006 b 0.1
C4 NC_01 N007 1e-6
R3 N007 0 50
R4 N004 c 0.1
V4 o 0 0 AC 0
C5 NC_02 0 1e-9
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 100e3 20e6
;.tran 100e-3
.step param v list  0.1 0.4 0.6
.backanno
.end
